US09023849B2
3,5-Difluoropyridine-2-carbonyl chloride
A suspension of 5.00 g (31.4 mmol) of 3,5-difluoropyridine-2-carboxylic acid in thionyl chloride (21 ml) was heated to reflux for 5 h. The solution was concentrated, and the residue was twice taken up in a little toluene and concentrated again. This gave 3.80 g of a solid, which was converted further directly without further purification.

reactant | 3,5-difluoropyridine-2-carboxylic acid | 31.4 mmol, 5.00 g | FC=1C(=NC=C(C1)F)C(=O)O | C6H3F2NO2
reactant | thionyl chloride | 21 ml | S(=O)(Cl)Cl | Cl2OS
product | 3,5-Difluoropyridine-2-carbonyl chloride | FC=1C(=NC=C(C1)F)C(=O)Cl | C6H2ClF2NO
